US08791099B2
Nitration of L-tyrosine: Peroxynitrite (0.44 μmol) was reacted with 0.16 μmol of L-tyrosine in 2 mL phosphate buffer solution, pH 7.4 at T=24° C. for 5 min. The concentration of such formed nitrotyrosine was estimated by recording the 438 nm absorbance (ε=4200 M−1cm−1) of basified solutions (via the addition of 0.2 ml of 7.8 M NaOH). The same experiments were repeated in the presence of either 0.1 μmol 1-Fe or 1-Mn.

reactant | L-tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | Peroxynitrite | 0.44 μmol | N(=O)O[O-]
reactant | L-tyrosine | 0.16 μmol | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
solvent | phosphate | 2 mL | P(=O)([O-])([O-])[O-]
product | nitrotyrosine | [N+](=O)([O-])N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H10N2O5
